US08258130B2
A mixture of 2-phenyl-pyrimidine-5-carboxylic acid (1.17 mmol), 1-hydroxybenzotriazole (1.99 mmol), and PS-DCC (1.21 mmol/g, 2.34 mmol in DMF (8 mL) is shaken at rt for 60 min. 3-{3-Amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester (1.17 mmol) is added and the mixture is shaken at rt for 2-4 days. Polymer supported-trisamine (PS-trisamine) (4.08 mmol/g, 3.51 mmol) is added and the mixture is continually shaken at rt for 18 hours. The solid is filtered and washed with MeOH. The filtrate is concentrated. The residue is purified by silica gel chromatography eluting with 10-60% EtOAc in hexanes to afford 3-{2,4-dioxo-3-[(2-pheyl-pyrimidine-5-carbonyl)-amino]-1,2,3,4-tetrahydro-pyrimidin-5-yl-propionic acid methyl ester (115 mg, 25%) as a solid. MS: 397 (M+H) 397; 1H NMR (300 MHz, CDCl3): δ 2.57-2.76 (m, 2H), 2.80-3.00 (m, 2H), 3.64 (s, 3H), 5.30 (br. N—H), 7.37-7.55 (m, 3H), 8.35 (d, 2H), 9.26 (s, 2H).

reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 1.17 mmol | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | 1-hydroxybenzotriazole | 1.99 mmol | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-Amino-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-propionic acid methyl ester | 1.17 mmol | COC(CCC=1C(N(C(NC1)=O)N)=O)=O | C8H11N3O4
reactant | trisamine | 3.51 mmol | C(C(CO)(CO)N)O | C4H11NO3
reactant | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2,4-dioxo-3-[(2-pheyl-pyrimidine-5-carbonyl)-amino]-1,2,3,4-tetrahydro-pyrimidin-5-yl-propionic acid methyl ester | 115 mg, 25% | COC(C(C)C=1C(N(C(NC1)=O)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)=O)=O | C19H17N5O5
